US04714705
4-Acetamido-3-hydroxy-6,7-dimethoxy-1-methylisoquinoline Hemihydrate (Compound BG)
A slurry of 2.028 grams 3-hydroxy-6,7-dimethoxy-1-methyl-4-nitroisoquinoline (BA) (7.67 mmol) in 28 ml acetic anhydride and 180 ml acetic acid was hydrogenated using 0.8 grams of a 10% palladium on carbon catalyst at 25 psi hydrogen pressure in a Parr hydrogenator for 3 hours. The mixture was filtered through a Celite pad, and the collected solids were washed with acetic acid. The filtrate and the wash liquids were combined and evaporated to dryness. The residue was recrystallized from methanol to provide 0.70 grams of Compound BG (33% yield) having a melting point of >300° C. (with decomposition).

reactant | 3-hydroxy-6,7-dimethoxy-1-methyl-4-nitroisoquinoline | 7.67 mmol, 2.028 grams | OC=1N=C(C2=CC(=C(C=C2C1[N+](=O)[O-])OC)OC)C | C12H12N2O5
reactant | hydrogen | [H][H] | H2
solvent | acetic anhydride | 28 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 180 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | [Pd] | Pd
product | 4-Acetamido-3-hydroxy-6,7-dimethoxy-1-methylisoquinoline Hemihydrate | 0.70 grams, 33% yield | O.C(C)(=O)NC1=C(N=C(C2=CC(=C(C=C12)OC)OC)C)O.C(C)(=O)NC1=C(N=C(C2=CC(=C(C=C12)OC)OC)C)O | InChI=1S/2C14H16N2O4.H2O/c2*1-7-9-5-11(19-3)12(20-4)6-10(9)13(14(18)15-7)16-8(2)17;/h2*5-6H,1-4H3,(H,15,18)(H,16,17);1H2
